US04182758
A mixture of 1,5-dibromopentane (500 g.) and triethylphosphite (72.0 g.) was stirred at 160° C. for 40 minutes and then excess 1,5-dibromopentane was distilled off under reduced pressure to give oily diethyl 5-bromopentylphosphonate (129.6 g.).

reactant | 1,5-dibromopentane | 500 g | BrCCCCCBr | C5H10Br2
reactant | triethylphosphite | 72.0 g | C(C)OP(OCC)OCC | C6H15O3P
product | diethyl 5-bromopentylphosphonate | 129.6 g | BrCCCCCP(OCC)(OCC)=O | C9H20BrO3P
